* C:\Users\USER\Documents\LTspiceXVII\LTspice-Projects-\Draft1.asc
R2 N004 N003 220
R1 N002 N001 10
M1 N001 N004 0 0 NMOS
VGS N003 0 10V
VDS N002 0 30
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc VDS 0 30 0.1 VGS 0 10 2
.backanno
.end
